US08053431B2
3-[2-Ethyl-5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-benzimidazol-1-yl]-propionic Acid
To a solution of 3-[2-ethyl-5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)benzimidazol-1-yl]-propionic acid ethyl ester (104 mg, 0.244 mmol) in 96% ethanol (5 mL) at room temperature under an inert atmosphere of nitrogen was added 1N NaOH (aq) (0.3 mL, 0.3 mmol). The mixture was stirred for 2 hrs at room temperature. The reaction was quenched by the addition of water (5 mL) and acidified to pH 2 with 1N HCl followed by extraction with diethyl ether (2×10 mL). The combined organic phases were washed with water (2×10 mL), brine (10 mL), dried (MgSO4), filtered, and evaporated in vacuo affording 11 mg (11%) of the title compound as yellow oil. MS-ESI m/z 398; 1H NMR (400 MHz, CDCl3) δ 0.83-1.06 (m, 6H), 1.12-1.22 (m, 7H), 1.24-1.28 (m) and 1.46-1.54 (m, 1H), 1.30-1.39 (m, 2H), 1.33 (t, 3H), 1.63-1.74 (m, 1H), 2.22-2.32 (m) and 3.15-3.27 (m, 1H), 2.26 (t, 2H), 2.85 (t, 2H), 3.51 (q, 2H), 7.25-7.35 (m, 2H), 7.56 (d) and 7.74 (d, 1H).

reactant | 3-[2-ethyl-5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)benzimidazol-1-yl]-propionic acid ethyl ester | 0.244 mmol, 104 mg | C(C)OC(CCN1C(=NC2=C1C=CC(=C2)C(=O)N2C1CC(CC(C2)(C1)C)(C)C)CC)=O | C25H35N3O3
reactant | NaOH | 0.3 mmol, 1N, 0.3 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-[2-Ethyl-5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-benzimidazol-1-yl]-propionic Acid | 11 mg, 11% | C(C)C1=NC2=C(N1CCC(=O)O)C=CC(=C2)C(=O)N2C1CC(CC(C2)(C1)C)(C)C | C23H31N3O3
